US09101616B2
Step-1: methyl 1-methyl-6-(trifluoromethyl)-1H-indazole-3-carboxylate
To an acetonitrile (5 ml) solution of methyl 6-(trifluoromethyl)-1H-indazole-3-carboxylate (300 mg, 1.2 mmol) were added potassium carbonate (1.0 g, 7.4 mmol) and iodomethane (350 mg, 2.5 mmol) at room temperature respectively. The mixture was stirred at room temperature for 4 hours. The solid was removed by filtration and washed with acetonitrile. The filtrate was concentrated in vacuo. After being filtered off, the filtrate was concentrated under reduced pressure, the residue was applied to a silica gel chromatography column and eluted with a hexane/ethyl acetate=4/1 to furnish 239 mg (75% yield, major product) of the title as a white solid;

reactant | methyl 6-(trifluoromethyl)-1H-indazole-3-carboxylate | 1.2 mmol, 300 mg | FC(C1=CC=C2C(=NNC2=C1)C(=O)OC)(F)F | C10H7F3N2O2
reactant | potassium carbonate | 7.4 mmol, 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 2.5 mmol, 350 mg | IC | CH3I
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | methyl 1-methyl-6-(trifluoromethyl)-1H-indazole-3-carboxylate | 75% yield | CN1N=C(C2=CC=C(C=C12)C(F)(F)F)C(=O)OC | C11H9F3N2O2
